US07968720B2
[2-Chloro-5-(2-methylcarbamoyloxy-ethyl)-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester
4-Nitrophenyl chloroformate (3.25 g, 15.7 mmol) and DIPEA (7.88 mL, 46.0 mmol) were added to a sol. of [2-chloro-5-(2-hydroxy-ethyl)-benzyl]-cyclopropyl-carbamic acid tert-butyl ester (3.00 g, 9.21 mmol) in CH3CN (46 mL). The mixture was stirred at 60° C. for 20 h, and was allowed to cool to rt. MeNH2 (2M in THF, 46.0 mL; 92.0 mmol) was added, and the mixture stirred at rt for 4 h. The mixture was partitioned between CH2Cl2, and water. The org. layer was washed with water and brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (CH2Cl2/Et2O 9:1) yielded the title compound (1.76 g, 50%). LC-MS: tR=1.02 min; ES+: 283.42.

reactant | 4-Nitrophenyl chloroformate | 15.7 mmol, 3.25 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIPEA | 46.0 mmol, 7.88 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | [2-chloro-5-(2-hydroxy-ethyl)-benzyl]-cyclopropyl-carbamic acid tert-butyl ester | 9.21 mmol, 3.00 g | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCO)Cl)=O | C17H24ClNO3
reactant | MeNH2 | 92.0 mmol, 2M, 46.0 mL | CN | CH5N
solvent | CH3CN | 46 mL | CC#N | C2H3N
product | [2-Chloro-5-(2-methylcarbamoyloxy-ethyl)-benzyl]-cyclopropyl-carbamic Acid tert-butyl Ester | 1.76 g, 50% | C(C)(C)(C)OC(N(C1CC1)CC1=C(C=CC(=C1)CCOC(NC)=O)Cl)=O | C19H27ClN2O4
